US08466181B2
1-(4-{4-[3-(4-Fluoro-phenyl)-5-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-phenyl)-ethanone
A mixture of 1-(4-fluoro-phenyl)-5-(1H-imidazol-4-yl)-4-methyl-1H-[1,2,3]triazole (100 mg, 0.411 mmol), 4-fluoroacetophenone (51 μL, 0.411 mmol) and potassium carbonate (114 mg, 0.82 mmol) in DMF (2.0 mL) was stirred under Ar in a sealed flask and heated at 120° C. for 48 h. After cooling to room temperature the mixture was poured into HCl (1 N) and extracted with ethyl acetate and the combined extracts washed with water, brine, dried over sodium sulphate, filtered and evaporated. Purification by chromatography (silica, 0 to 100% ethyl acetate in heptane) afforded the title compound (79 mg, 53%) as an off white solid. MS: m/e=362.3 [M+H]+.

reactant | 1-(4-fluoro-phenyl)-5-(1H-imidazol-4-yl)-4-methyl-1H-[1,2,3]triazole | 0.411 mmol, 100 mg | FC1=CC=C(C=C1)N1N=NC(=C1C=1N=CNC1)C | C12H10FN5
reactant | 4-fluoroacetophenone | 0.411 mmol, 51 μL | CC(=O)C1=CC=C(C=C1)F | C8H7FO
reactant | potassium carbonate | 0.82 mmol, 114 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1 N | Cl | ClH
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 1-(4-{4-[3-(4-Fluoro-phenyl)-5-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-phenyl)-ethanone | 79 mg, 53% | FC1=CC=C(C=C1)N1N=NC(=C1C=1N=CN(C1)C1=CC=C(C=C1)C(C)=O)C | C20H16FN5O
